US04156777
1.79 g (10 mmol) of 6-amino-6-deoxy-D-glucopyranose is dissolved in a mixture of 20 ml anhydrous ethanol and 20 ml dimethyl sulfoxide, and the solution is cooled to 0°-5° C. To this solution is added 3.3 g (75 mmol) of dry-ice little by little so as to convert the glucopyranose into its carbonic acid-addition salt. This acid-addition salt solution is then added dropwise to a solution prepared by dissolving 3.28 g (12 mmol) of o-nitrophenyl N-(2-chloroethyl)N-nitrosocarbamate in a mixture of 40 ml anhydrous tetrahydrofuran and 10 ml toluene, while stirring, at 0°-5° C. over 30 minutes. The resultant mixture is stirred further at 20°-25° C. for 2 hours, and the thus reacted solution is concentrated at 40° C. and below, under reduced pressure. To the oily residue thus produced is added 80 ml of ethyl ether and the solution is left at 4° C. overnight. The crystalline residue obtained is washed with chloroform and then with ethyl ether, dried under reduced pressure, and recrystallized from anhydrous ethanol-n-hexane (4:1) to give 2.70 g of 3-(D-glucopyranos-6-yl)-1-(2-chloroethyl)-1-nitrosourea. Yield 86.1%. mp 102°-103° C. (decomp.). [α]D20 +55° (C 0.5, methanol; the value of +55° reduced to +37° after 18 hours). Analysis for C9H16N3O7Cl (MW 313.69):

reactant | 6-amino-6-deoxy-D-glucopyranose | 10 mmol, 1.79 g | NC[C@@H]1[C@H]([C@@H]([C@H](C(O)O1)O)O)O | C6H13NO5
reactant | dry-ice | 75 mmol, 3.3 g | C(=O)=O | CO2
reactant | glucopyranose | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
reactant | carbonic acid | C(O)(O)=O | CH2O3
reactant | o-nitrophenyl N-(2-chloroethyl)N-nitrosocarbamate | 12 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | 80 ml | C(C)OCC | C4H10O
product | 3-(D-glucopyranos-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 2.70 g, Yield 86.1% | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(O)NC(N(N=O)CCCl)=O | C9H16ClN3O8
